US08124638B2
(e) N-Butyloxycarbonyl-2-(4-imidazol-1-ylmethylphenyl)-4-iso-butylbenzene-sulfonamide
The crude product from step (d) above was dissolved in pyridine (2 mL, dried over 4 Å molecular sieve). Pyrrolidinopyridine (36 mg, 0.024 mmol) and butyl chloroformate (276 μL, 2.23 mmol) were added to the mixture, which was then stirred for 30 h under N2 (g) at room temperature. The solvent was removed in vacuo and then co-evaporated with acetonitrile. Purification using column chromatography with CHCl3:MeOH (10:1) as eluent yielded the title compound (66.7 mg, 0.142 mmol) in 68% yield (from 2-(4-imidazol-1-ylmethylphenyl)-4-iso-butyl-N-tert-butylbenzene-sulfonamide).

reactant | Pyrrolidinopyridine | 0.024 mmol, 36 mg | N1(CCCC1)C1=NC=CC=C1 | C9H12N2
reactant | butyl chloroformate | 2.23 mmol, 276 μL | ClC(=O)OCCCC | C5H9ClO2
reactant | 2-(4-imidazol-1-ylmethylphenyl)-4-iso-butyl-N-tert-butylbenzene-sulfonamide | N1(C=NC=C1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)CC(C)C)S(=O)(=O)NC(C)(C)C | C24H31N3O2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-Butyloxycarbonyl-2-(4-imidazol-1-ylmethylphenyl)-4-iso-butylbenzene-sulfonamide | 0.142 mmol, 66.7 mg, 68% yield | C(CCC)OC(=O)NS(=O)(=O)C1=C(C=C(C=C1)CC(C)C)C1=CC=C(C=C1)CN1C=NC=C1 | C25H31N3O4S
